US06107481
A stirred solution of tert-butyl (4R,6R,7R)-3-methylene-7-phenylacetamido-cepham-4-carboxylate (0.83 g, purity 93.7%, 2.0 mmol) in dichloromethane (80 ml) was cooled to 0° C. Titanium tetrachloride (0.66 ml, 6.0 mmol) was added in 1 min. After stirring for 4 h at 0° C., the suspension was mixed with a chilled 2 M solution of hydrochloric acid in. water (40 ml). The organic phase was separated and washed with a 1 M solution of hydrochloric acid in water (20 ml), water (20 ml), and brine (20 ml). The organic phase was dried over magnesium sulphate and evaporated to give 0.40 g of (4R,6R,7R)-3-methylene-7-phenylacetamido-cepham-4-carboxylic acid (purity 75%, yield 45.1%).

reactant | tert-butyl (4R,6R,7R)-3-methylene-7-phenylacetamido-cepham-4-carboxylate | 2.0 mmol, 0.83 g | C=C1CS[C@H]2N([C@H]1C(=O)OC(C)(C)C)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C20H24N2O4S
reactant | hydrochloric acid | Cl | ClH
reactant | water | 40 ml | O | H2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 6.0 mmol, 0.66 ml | [Ti](Cl)(Cl)(Cl)Cl
product | (4R,6R,7R)-3-methylene-7-phenylacetamido-cepham-4-carboxylic acid | 0.40 g, yield 45.1% | C=C1CS[C@H]2N([C@H]1C(=O)O)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C16H16N2O4S
